US07825128B2
8) (S)-2-(2-chloro-5-thiophen-3-yl-pyrimidine-4-ylamino)-4-methyl-pentan-1-ol
Preparation according to procedures 2 and 3 with the use of 2,4-dichloro-5-iodopyrimidine, L-leucinol (Aldrich) and thiophen-3-boronic acid (Aldrich).

reactant | 2,4-dichloro-5-iodopyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | L-leucinol | N[C@@H](CC(C)C)CO | C6H15NO
reactant | thiophen-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | (S)-2-(2-chloro-5-thiophen-3-yl-pyrimidine-4-ylamino)-4-methyl-pentan-1-ol | ClC1=NC=C(C(=N1)N[C@H](CO)CC(C)C)C1=CSC=C1 | C14H18ClN3OS
